US07674741B2
2-(Cyclohexyl-methyl)-2-ethoxymethyl-γ-butyrolactone
A solution of lithium diisopropylamide prepared from diisopropylamine (6.50 mL) and butyllithium (29.0 mL of 1.6M solution in hexanes) in THF (105 mL) was treated dropwise with 2-(cyclohexyl-methyl)-γ-butyrolactone (6.96 g) at −78° C. The reaction mixture was stirred at the same temperature for additional 30 min and then treated dropwise with chloromethyl ethyl ether (5.05 g). Upon completion of the addition, the mixture was allowed to slowly warm-up to room temperature and stirred at this temperature overnight. After that, the mixture was quenched by pouring onto a mixture of ice and 10% aqueous phosphoric acid. The formed organic phase was separated and the aqueous phase was extracted with toluene. The combined organic phases were washed with water, dried over potassium sulfate, filtered, concentrated on a rotary evaporator and purified by column chromatography (silica gel, eluent-hexane) to give 5.90 g (64%) of the title compound.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 6.50 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.6M, 29.0 mL | C(CCC)[Li]
reactant | 2-(cyclohexyl-methyl)-γ-butyrolactone | 6.96 g | C1(CCCCC1)CC1C(=O)OCC1 | C11H18O2
reactant | chloromethyl ethyl ether | 5.05 g | C(C)OCCl | C3H7ClO
solvent | THF | 105 mL | C1CCOC1 | C4H8O
product | 2-(Cyclohexyl-methyl)-2-ethoxymethyl-γ-butyrolactone | 5.90 g, 64% | C1(CCCCC1)CC1(C(=O)OCC1)COCC | C14H24O3
